* Netlist for TestBoost.net

* Sources:
V1 1 0 5

* Components:
L1 1 2 10u
M1 2 p1 0 0 mosfet
D1 2 3 diode
C1 3 0 100u
R1 3 0 10

* Drivers:
Vdrv1 p1 0 PULSE(0 20 0 0 0 5u 10u)

* Models:
.model mosfet NMOS(Kp=60 Vto=4.5)
.model diode D

.tran 5m

.end
