* LTspice Boost Converter Example

V1 1 0 12
L1 1 2 10u
M1 2 3 0 0 mosfet
D1 2 4 diode
C1 4 0 100u
R1 4 0 1

V2 3 0 PULSE(0 15 0 0 0 5u 10u); PULSE(Vinit, Von, Tdelay, Trise, Tfall, Ton, Tperiod, Ncycles)

.model mosfet NMOS(Kp=60 Vto=4.5)

.model diode D

.backanno; annotate stuff
.tran 1m; transient time
.end