* LTspice Test Netlist 2

* Circuit Schematic
* 
*    ______ 1 __ __R__
*   |     |     |     |
*   R     R     I ^   R
*   |_____|_____|_____|
*   
*

* Sources
I1 0 99 15u; 15 uA Current source. Note that current flows from + terminal to - terminal

* Resistors
R1 1 0 1meg; 1 MOhm resistor, note lowercase m is milli, mega is meg
R2 1 0 4meg; 4 MOhm resistor
R3 99 2 200k; 200 kOhm resistor
R4 2 0 600k; 600 kOhm resistor

* Let's measure current across branch 1
* We add a 0V source
* Metering Sources
Vmtr 1 99 0; Metering source used to measure branch 1

* Directives
.op ; Operating point DC analysis