* Netlist 3, with dependent Sources
* Any device that is unknown, we can look at LTSpiceHelp

* Sources
I1 4 2 5; 5A current source
E1 1 4 0 5 3; Voltage Dependent Voltage Source, first two numbers specify how it is hooked up, next two specify where to measure voltage from, last number is gain

* Resistors
R1 1 2 20;
R2 2 3 6;
R3 4 5 25;
R4 0 4 5;
R5 5 0 12;
R6 3 5 11;

* Directives
.op;