* Netlist 4, Current Dependent Current Sources

* Sources
V1 A 0 120;
F1 A V2 Vmtr 5; Current Dependent Current Source with gain of 5

* Metering Sources
Vmtr 99 V1 0;

* Resistors
R1 A V1 3k;
R2 V1 0 8k;
R3 V2 99 1meg;
R4 V2 0 5k;

* Directives
.op;

